US04124593
The solution of 300 mg of N-(2-ethoxymethyl-4-nitrophenyl)-4-chlorophthalimide in 40 ml of ethyl acetate is hydrogenated with 200 mg of 5% rhodium on carbon at 2.5 atmospheres of hydrogen pressure for 3 hours. After filtration from the catalyst the residue is refluxed for 24 hours in 5 ml of xylene, the solution evaporated and the residue crystallized from diethyl ether, to give the N-(2-ethoxymethyl-4-aminophenyl)-4-chlorophthalimide melting at 154°-156°.

reactant | N-(2-ethoxymethyl-4-nitrophenyl)-4-chlorophthalimide | 300 mg | C(C)OCC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C17H13ClN2O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 200 mg | [Rh] | Rh
product | N-(2-ethoxymethyl-4-aminophenyl)-4-chlorophthalimide | C(C)OCC1=C(C=CC(=C1)N)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C17H15ClN2O3
